US06930185B2
6-amino-2-methylquinoline (1.02 g, 6.45 mmol) was dissolved in pyridine (30 ml), acetic anhydride (0.913 ml, 9.67 mmol) was added thereto, and the mixture was stirred at room temperature for 3 hours. The solvent was distilled off under reduced pressure, and diisopropyl ether was added thereto for crystallization, to obtain N-(2-methyl-6-quinolinyl)acetamide (1.20 g) as white powders.

reactant | 6-amino-2-methylquinoline | 6.45 mmol, 1.02 g | NC=1C=C2C=CC(=NC2=CC1)C | C10H10N2
reactant | acetic anhydride | 9.67 mmol, 0.913 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-methyl-6-quinolinyl)acetamide | 1.20 g | CC1=NC2=CC=C(C=C2C=C1)NC(C)=O | C12H12N2O
